### PR TITLE
add `isSFiniteMeasure_map`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add the file `SFinite.lean`, it contains `Measure.isSFiniteMeasure_map` and the instances for the s-finiteness of the marginals given that the original distribution is s-finite

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/SFinite.lean [hunk 1]
```diff
@@ -0,0 +1,44 @@
...
+    · ext s hs
+      rw [sum_apply (fun n ↦ map f (sFiniteSeq μ n)) hs, map_apply_of_aemeasurable hf hs]
+      have (i : ℕ) : AEMeasurable f (sFiniteSeq μ i) := by
+        apply AEMeasurable.mono_measure hf
+        nth_rw 2 [← sum_sFiniteSeq μ]
+        exact le_sum _ _
+      simp_rw [map_apply_of_aemeasurable (this _) hs]
+      rw [← sum_apply_of_countable (fun n ↦ sFiniteSeq μ n) _, sum_sFiniteSeq]
+  · rw [map_of_not_aemeasurable hf]
+    exact instSFiniteOfNatMeasure
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/SFinite.lean]:
```suggestion
  by_cases hf : AEMeasurable f μ
  · rw [← sum_sFiniteSeq μ, map_sum]
    · infer_instance
    · rwa [sum_sFiniteSeq]
  · rw [map_of_not_aemeasurable hf]
    infer_instance
```
And this proof does not need `AEMeasurable.mono_measure` anymore

File: TestingLowerBounds/ForMathlib/SFinite.lean [hunk 2]
```diff
@@ -0,0 +1,44 @@
...
+
+namespace MeasureTheory
+
+variable {α β δ ι : Type*}
+variable {m0 : MeasurableSpace α} [MeasurableSpace β] {μ ν ν₁ ν₂: Measure α}
+  {s t : Set α} {ρ : Measure (α × β)}
+
+--it would have been nice to put this in `Mathlib.MeasureTheory.Measure.Typeclasses`, inside the `SFinite` section, but we need `AEMeasurable.mono_measure` to prove it, and this would create a circular import
+@[instance]
+theorem Measure.isSFiniteMeasure_map {m : MeasurableSpace α} (μ : Measure α) [SFinite μ]
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/SFinite.lean]:
```suggestion
instance {m : MeasurableSpace α} (μ : Measure α) [SFinite μ]
```

File: TestingLowerBounds/ForMathlib/SFinite.lean [hunk 3]
```diff
@@ -0,0 +1,32 @@
+import Mathlib.MeasureTheory.Measure.Typeclasses
+import Mathlib.MeasureTheory.Measure.AEMeasurable
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/SFinite.lean]:
```suggestion
```

File: TestingLowerBounds/ForMathlib/SFinite.lean [hunk 4]
```diff
@@ -0,0 +1,32 @@
...
+import Mathlib.MeasureTheory.Constructions.Prod.Basic
+
+namespace MeasureTheory.Measure
+
+-- open Measure
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/SFinite.lean]:
```suggestion
```

File: TestingLowerBounds/ForMathlib/SFinite.lean [hunk 5]
```diff
@@ -0,0 +1,32 @@
...
+
+variable {α β δ ι : Type*}
+variable {m0 : MeasurableSpace α} [MeasurableSpace β] {μ ν ν₁ ν₂: Measure α}
+  {s t : Set α} {ρ : Measure (α × β)}
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/SFinite.lean]:
```suggestion
variable {α β : Type*} {m0 : MeasurableSpace α} {m1 : MeasurableSpace β}
  {μ : Measure α} ρ : Measure (α × β)}
```

File: TestingLowerBounds/ForMathlib/SFinite.lean [hunk 6]
```diff
@@ -0,0 +1,32 @@
...
+
+--TODO: put this in `Mathlib.MeasureTheory.Measure.Typeclasses`, inside the `SFinite` section
+instance {m : MeasurableSpace α} (μ : Measure α) [SFinite μ] (f : α → β) : SFinite (μ.map f) := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/SFinite.lean]:
```suggestion
instance [SFinite μ] (f : α → β) : SFinite (μ.map f) := by
```

File: TestingLowerBounds/ForMathlib/SFinite.lean [hunk 7]
```diff
@@ -0,0 +1,32 @@
...
+  by_cases hf : AEMeasurable f μ
+  · rw [← sum_sFiniteSeq μ, map_sum]
+    · infer_instance
+    · rwa [sum_sFiniteSeq]
+  · rw [map_of_not_aemeasurable hf]
+    infer_instance
+namespace Measure
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/SFinite.lean]:
```suggestion
    infer_instance
```

File: TestingLowerBounds/ForMathlib/SFinite.lean [hunk 8]
```diff
@@ -0,0 +1,32 @@
...
+
+--this should go in `Mathlib.MeasureTheory.Constructions.Prod.Basic`, just before `fst.instIsFiniteMeasure`
+instance [SFinite ρ] : SFinite ρ.fst := by
+  rw [fst]
+  infer_instance
+
+--this should go in `Mathlib.MeasureTheory.Constructions.Prod.Basic`, just before `snd.instIsFiniteMeasure`
+instance [SFinite ρ] : SFinite ρ.snd := by
+  rw [snd]
+  infer_instance
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/SFinite.lean:25]:
```suggestion
  infer_instance

end MeasureTheory.Measure
```

**Review by RemyDegenne — APPROVED** [review]
